US07304081B2
1′-({1-[4-(3-Methyl-1H-pyrazol-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one
To a solution of 1′-{[1-(4-bromophenyl)cyclopropyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one (30 mg, 0.00007 mol), 3-methyl-1H-pyrazole (7.15 mg, 0.0000871 mol) in toluene (0.5 mL, 0.005 mol) and N,N-dimethylformamide (0.5 mL, 0.006 mol) were added (1S,2S)-N,N′-dimethylcyclohexane-1,2-diamine (2.1 mg, 0.000014 mol), copper(I) iodide (1 mg, 0.000007 mol), and potassium carbonate (21.1 mg, 0.000152 mol). The mixture was heated at 150 Celsius under microwave for 60 minutes. Then the mixture was cooled down to r.t. and filtered. The filtrate was diluted with methanol, and the desired compound was obtained by reversed phase prep-HPLC. MS (ESI): 415.1 (M+H+).

reactant | 1′-{[1-(4-bromophenyl)cyclopropyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | 0.00007 mol, 30 mg | BrC1=CC=C(C=C1)C1(CC1)C(=O)N1CC2(CC1)OC(C=1C=NC=CC12)=O | C20H17BrN2O3
reactant | 3-methyl-1H-pyrazole | 0.0000871 mol, 7.15 mg | CC1=NNC=C1 | C4H6N2
reactant | toluene | 0.005 mol, 0.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | N,N-dimethylformamide | 0.006 mol, 0.5 mL | CN(C=O)C | C3H7NO
reactant | (1S,2S)-N,N′-dimethylcyclohexane-1,2-diamine | 0.000014 mol, 2.1 mg | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | potassium carbonate | 0.000152 mol, 21.1 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 0.000007 mol, 1 mg | [Cu]I
product | 1′-({1-[4-(3-Methyl-1H-pyrazol-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | CC1=NN(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)N1CC2(CC1)OC(C=1C=NC=CC12)=O | C24H22N4O3
